US04255434
20.8 g (0.05 mol) of crude 1-bromo-4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-butan-2-one were dissolved in 120 ml of absolute acetonitrile. 12 g (0.175 mol) of imidazole were added and the mixture was heated for 40 hours under reflux. It was then concentrated by distilling off the solvent in vacuo and the residue was taken up in 300 ml of methylene chloride. The solution was washed three times with 100 ml of water at a time and was dried over sodium sulphate and again concentrated in vacuo. The residue was taken up in 100 ml of acetone and a solution of 9 g (0.038 mol) of 1,5-naphthalenedisulphonic acid in 50 ml of acetone was added. After 2 hours, the precipitate formed was filtered off and dried. 19.6 g (72% of theory) of 4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-1(imidazol-1-yl)-butan-2-one naphthalene-1,5-disulphonate of melting point 246° C. were obtained.

reactant | 1-bromo-4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-butan-2-one | 0.05 mol, 20.8 g | BrC(C(C(CCl)(C)C)=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C18H17BrCl2O2
reactant | imidazole | 0.175 mol, 12 g | N1C=NC=C1 | C3H4N2
reactant | 1,5-naphthalenedisulphonic acid | 0.038 mol, 9 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-1(imidazol-1-yl)-butan-2-one naphthalene-1,5-disulphonate | 19.6 g, 72% | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.ClCC(C(C(N1C=NC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O)(C)C | InChI=1S/C21H20Cl2N2O2.C10H8O6S2/c1-21(2,13-22)19(26)20(25-12-11-24-14-25)27-18-9-5-16(6-10-18)15-3-7-17(23)8-4-15;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h3-12,14,20H,13H2,1-2H3;1-6H,(H,11,12,13)(H,14,15,16)
